US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (8 g) is alkylated using 3-bromoacetophenone (6.8 g; 33.4 mmol) and K2CO3 (11.3 g; 82 mmol) at RT for 3 h. After filtration and evaporation of the solvent the crude material is de-acetylated under reflux conditions in 2-propanol (111 ml) and hydrochloric acid (6 N; 75 ml). Pure 5-amino-3,3-dimethyl-6-nitro-1-(2-oxo-2-phenyl-ethyl)-1,3-dihydro-indol-2-one (8.5 g) is obtained by aqueous work-up and re-crystallization.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 8 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 3-bromoacetophenone | 33.4 mmol, 6.8 g | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | K2CO3 | 82 mmol, 11.3 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-amino-3,3-dimethyl-6-nitro-1-(2-oxo-2-phenyl-ethyl)-1,3-dihydro-indol-2-one | 8.5 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC(C1=CC=CC=C1)=O)=O)(C)C | C18H17N3O4
